US05236952
3.5 g of 4-hydroxy-3-methoxy-5-nitrophenyl 3-pyridyl ketone dissolved in 70 ml of 48 percent aqueous hydrobromic acid are stirred at 100° for 18 hours. The reaction mixture is subsequently evaporated under reduced pressure. The residue is recrystallized from water. There is obtained 3,4-dihydroxy-5-nitrophenyl 3-pyridyl ketone hydrobromide of m.p. 265°.

reactant | 4-hydroxy-3-methoxy-5-nitrophenyl 3-pyridyl ketone | 3.5 g | N1=CC(=CC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C13H10N2O5
reactant | hydrobromic acid | 70 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrophenyl 3-pyridyl ketone hydrobromide | Br.N1=CC(=CC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | InChI=1S/C12H8N2O5.BrH/c15-10-5-8(4-9(12(10)17)14(18)19)11(16)7-2-1-3-13-6-7;/h1-6,15,17H;1H
